US07560491B2
To a stirred solution of the 3,4,5-Trimethoxy-2-nitrobenzoic acid (5 g, 19.40 mmol) in THF (30 ml) was added by BH3 (1.0 M in THF, 29.1 ml) under nitrogen. The mixture was stirred and refluxed for 2 hours. After cooling, the reaction mixture was extracted with water and CH2Cl2. The combined organic layers were dried over MgSO4, and then evaporated to afford 3,4,5-Trimethoxy-2-nitrobenzyl methanol. The crude 3,4,5-trimethoxy-2-nitrobenzyl methanol was dissolved in anhydrous CH2Cl2 (20 mL) and was subjected to PBr3 (2.40 ml, 25.22 mmol) in an ice bath. After 2 h, the mixture was extracted with water and CH2Cl2. The organic layers were combined and evaporated. The residue was purified by flash chromatography (EtOAc:n-hexane=1:2) to afford B1 as a pale yellow oil, yield 68%. 1H NMR (500 MHz, CDCl3) δ 3.90 (s, 3H), 3.92 (s, 3H), 3.98 (s, 3H), 4.44 (s, 2H), 6.72 (s, 1H).

reactant | 3,4,5-Trimethoxy-2-nitrobenzoic acid | 19.40 mmol, 5 g | COC=1C(=C(C(=O)O)C=C(C1OC)OC)[N+](=O)[O-] | C10H11NO7
reactant | THF | 30 ml | C1CCOC1 | C4H8O
product | 3,4,5-Trimethoxy-2-nitrobenzyl methanol | COC=1C(=C(CCO)C=C(C1OC)OC)[N+](=O)[O-] | C11H15NO6
